US04166131
12.8 g of 2-ethyl-5-indan-acetonitrile are dissolved in 350 cc of ethanol, a solution of 26.7 g of potassium hydroxide in 45 cc of water is added, and the mixture is boiled at reflux for 20 hours. The solution is concentrated to 50 cc, diluted with water and extracted with ether, and the ether phase is discarded. The aqueous phase is then acidified with 2 N hydrochloric acid and extracted with ether. The crude 2-ethyl-5-indanacetic acid, obtained after concentrating the ether extract, is purified by chromatography on a 50-fold quantity of silica gel using chloroform containing 1.5% of methanol as eluant. After recrystallization from hexane the title compound has a M.P. of 44°-46°.

reactant | 2-ethyl-5-indan-acetonitrile | 12.8 g | C(C)C1CC2=CC=C(C=C2C1)CC#N | C13H15N
reactant | potassium hydroxide | 26.7 g | [OH-].[K+]
reactant | ethanol | 350 cc | C(C)O | C2H6O
solvent | water | 45 cc | O | H2O
product | 2-ethyl-5-indanacetic acid | C(C)C1CC2=CC=C(C=C2C1)CC(=O)O | C13H16O2
